US09353096B2
A mixture of 0.589 g (1.4 mmol) of 4,4,4-trifluoro-3-[(R)-2-(3-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-butyric acid ethyl ester, ca. 1.07 mL of 2 M sodium hydroxide solution and 14 mL of ethanol was heated at reflux and stirred under an atmosphere of argon. After 25 min, volatiles were removed under reduced pressure. The mixture was treated with 40 mL of saturated sodium dihydrogen phosphate solution, and extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.543 g (99%) of 4,4,4-trifluoro-3-[(R)-2-(3-trifluoromethylphenyl)-morpholin-4-ylmethyl]-butyric acid as a glass. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.10-2.21 (m, 1H) 2.31-2.66 (m, 3H overlapping DMSO) 2.79 (dd, J=16.81, 11.54 Hz, 1H) 2.95-3.21 (m, 2H) 3.34 (s, 2H) 3.65 (dtd, J=18.23, 11.34, 11.34, 2.26 Hz, 1H) 3.91-4.02 (m, 1H) 4.45-4.64 (m, 1H) 7.53-7.75 (m, 4H) 12.49 (br. s., 1H).

reactant | 4,4,4-trifluoro-3-[(R)-2-(3-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-butyric acid ethyl ester | 1.4 mmol, 0.589 g | C(C)OC(CC(C(F)(F)F)CN1C[C@H](OCC1)C1=CC(=CC=C1)C(F)(F)F)=O | C18H21F6NO3
reactant | sodium hydroxide | 2 M, ca. 1.07 mL | [OH-].[Na+]
solvent | ethanol | 14 mL | C(C)O | C2H6O
product | 4,4,4-trifluoro-3-[(R)-2-(3-trifluoromethylphenyl)-morpholin-4-ylmethyl]-butyric acid | 0.543 g, 99% | FC(C(CC(=O)O)CN1C[C@H](OCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C16H17F6NO3
